US05506256
E) (2S)-2-(4-Chlorophenoxyacetyl)-1-[N-(3-phenylpropionyl)-L-prolyl]pyrrolidine
To a solution of (2S)-2-[2-(4-chlorophenoxy)-1-hydroxyethyl]-1-[N-(3-phenylpropionyl)-L-prolyl]pyrrolidine (1.59 g) in DMSO (10 ml) was dropwise added a solution of sulfur trioxide-pyridine complex (2.69 g) in DMSO (10 ml), followed by 1 hour's stirring at room temperature. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, saturated aqueous solution of sodium bicarbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (eluate: chloroform-methanol) to give 0.85 g of the title compound.

reactant | (2S)-2-[2-(4-chlorophenoxy)-1-hydroxyethyl]-1-[N-(3-phenylpropionyl)-L-prolyl]pyrrolidine | 1.59 g | ClC1=CC=C(OCC(O)[C@H]2N(CCC2)C([C@H]2N(CCC2)C(CCC2=CC=CC=C2)=O)=O)C=C1 | C26H31ClN2O4
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | (2S)-2-(4-Chlorophenoxyacetyl)-1-[N-(3-phenylpropionyl)-L-prolyl]pyrrolidine | 0.85 g | ClC1=CC=C(OCC(=O)[C@H]2N(CCC2)C([C@H]2N(CCC2)C(CCC2=CC=CC=C2)=O)=O)C=C1 | C26H29ClN2O4
